US09422281B2
A 1.5 mL reaction vial was charged with (S)-1-(4-(furan-2-carbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxalin-1 (2H)-yl)ethanone (0.2 M in 1,4-dioxane, 150 μL, 0.03 mmol), and pyrrolidine-1-carbonyl chloride (4 mg, 0.030 mmol). Cesium fluoride was then added (5 mg, 0.030 mmol) and the reaction mixture was purged with nitrogen. Bis(triphenylphosphine)palladium(II) dichloride (1 mg, 0.0015) was then added, and the reaction was purged with nitrogen and heated overnight at 80° C. on a heater shaker. The reaction was diluted with ethyl acetate (0.5 mL) washed with brine (0.5 mL). The aqueous layer was separated and washed with ethyl acetate (1 mL) and the combined organic layers were concentrated under a stream of nitrogen. The crude product was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford (S)-1-(4-(furan-2-carbonyl)-2-methyl-6-(pyrrolidine-1-carbonyl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.0009 g, 8%). MS (ESI, pos. ion) m/z 382.

reactant | (S)-1-(4-(furan-2-carbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxalin-1 (2H)-yl)ethanone | 0.03 mmol, 0.2 M, 150 μL | O1C(=CC=C1)C(=O)N1C[C@@H](N(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(C)=O)C | C22H27BN2O5
reactant | pyrrolidine-1-carbonyl chloride | 0.030 mmol, 4 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | Cesium fluoride | [F-].[Cs+]
product | (S)-1-(4-(furan-2-carbonyl)-2-methyl-6-(pyrrolidine-1-carbonyl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.0009 g, 8% | O1C(=CC=C1)C(=O)N1C[C@@H](N(C2=CC=C(C=C12)C(=O)N1CCCC1)C(C)=O)C | C21H23N3O4
